US07105539B2
2-(2-tert-Butoxycarbonylmethyl-5-tritylsulfanyl-pentanoylamino)-succinic acid di-tert-butyl ester
To H-Asp (OtBu)-OtBu hydrochloride salt (28 mg, 0.10 mmol) in dry DMF (2 mL) was sequentially added at room temperature 2-(3-tritylsulfanyl-propyl)-succinic acid 4-tert-butyl ester (50 mg, 0.10 mmol), HOBt (14 mg, 0.10 mmol), PYBOP (56 mg, 0.11 mmol) and DIPEA (37 μL, 0.20 mmol). The usual aqueous work up yielded the title compound (62 mg, 86%) as a colorless residue: 1H NMR (CDCl3, 400 MHz) δ 7.41–7.38 (m, 6H), 7.29–7.25 (m, 6H), 6.60–6.57 (m, 1H), 4.68–4.56 (m, 1H), 3.18–3.14 (m, 2H), 2.89–2.80 (m, 1H), 2.74–2.52 (m, 2H), 2.43–2.36 (m, 1H), 2.32–2.19 (m, 1H), 2.12–2.07 (m, 2H), 1.83–1.80 (m, 2H), 1.60–1.53 (m, 1H), 1.45–1.40 (m, 27H); 13C (DEPT) (CDCl3, 100 MHz) δ 129.4, 127.7, 126.4, 49.0, 48.7, 46.1, 42.5, 37.8, 37.6, 37.2, 31.6, 31.5, 29.6, 27.9, 27.8, 27.7, 26.3, 26.2, 26.0.

reactant | H-Asp (OtBu)-OtBu hydrochloride | 0.10 mmol, 28 mg | CC(C)(C)OC(=O)C[C@@H](C(=O)OC(C)(C)C)N | C12H23NO4
reactant | 2-(3-tritylsulfanyl-propyl)-succinic acid 4-tert-butyl ester | 0.10 mmol, 50 mg | C(C)(C)(C)OC(CC(C(=O)O)CCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C30H34O4S
reactant | HOBt | 0.10 mmol, 14 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | PYBOP | 0.11 mmol, 56 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.20 mmol, 37 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(2-tert-Butoxycarbonylmethyl-5-tritylsulfanyl-pentanoylamino)-succinic acid di-tert-butyl ester | 62 mg, 86% | C(C)(C)(C)OC(C(CC(=O)OC(C)(C)C)NC(C(CCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)OC(C)(C)C)=O)=O | C42H55NO7S
